US04970213
A suspension of 0.47 g of 1-cyclopropyl-7,8-difluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid and 0.6 g of 1-methylpiperazine in 7 cm3 of dimethyl sulphoxide is heated at a temperature close to 80° C. for 15 minutes. The reaction mixture is poured into 25 cm3 of water and 9 cm3 of N hydrochloric acid are added. The solid obtained is drained and washed with 3 times 5 cm3 of water. After recrystallizing once from a mixture of 4.3 cm3 of ethanol and 4.5 cm3 of dimethylformamide, 0.29 g of 1-cyclopropyl-7-fluoro-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid melting at 250° C.

reactant | 1-cyclopropyl-7,8-difluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 0.47 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)O | C16H10F2N2O3
reactant | 1-methylpiperazine | 0.6 g | CN1CCNCC1 | C5H12N2
reactant | water | 25 cm3 | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 7 cm3 | CS(=O)C | C2H6OS
product | 1-cyclopropyl-7-fluoro-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 0.29 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)C)=O)C(=O)O | C21H21FN4O3
